Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Iodine-Iodine Containing / Aspirin / Ibuprofen
 
Attending: ___.
 
Chief Complaint:
right breast pain
 
Major Surgical or Invasive Procedure:
___ - ultrasound-guided drainage of right parasternal breast 
hematoma by interventional radiology

 
History of Present Illness:
Ms. ___ is a ___ F who presents with right breast pain. 
She underwent  US-guided core biopsy of a mass at 9:00 in the 
right  breast, fine needle aspiration of an abnormal appearing 
right axillary node, and stereotactic core biopsy of right 
breast calcifications on ___, yielding a diagnosis of Stage 
IIIC invasive ductal adenocarcinoma. 

Per her medical record she presented to ___ on ___ 
for right breast pain, underwent ultrasound there which 
demonstrated a collection that she was told was a hematoma. Also 
per her report the radiologist attempted at that time to 
aspirate the collection under ultrasound guidance but was unable 
to extract
anything and it was very painful for her. 

Today she reported to ___ Urgent Care with complaint 
of breast pain diffusely over the whole breast but worst in the 
upper outer quadrant at one of the well healing core biopsy 
sites. She was directed to come to ___. She indicates some ttp 
peristernally. She denies fevers/chills, nausea/vomiting,
systemic symptoms, or any issues with the left breast. 
 
Past Medical History:
PMH/PSH:
pseudotumor cerebri, depression, hyperthyroidism, migraines, she
has had 6 C-sections, and IIIC breast cancer 
 
Social History:
___
Family History:
The patient's mother who lives in ___ has some sort of 
metastatic cancer, the patient is not entirely sure which.  
There is no family history of breast or ovarian cancer.
 
Physical Exam:
On discharge:
VS: 98.5, 85, 116/65, 18, 100% RA 
Gen - NAD, AOx3
Heart - RRR
Lungs - breathing comfortably on room air
Breast - right breast with no bleeding or fluctuance, some 
fullness in right lateral breast/axilla (stable)
 
Pertinent Results:
___ 12:34PM   WBC-4.3 RBC-4.63 HGB-10.2* HCT-34.2 MCV-74* 
MCH-22.0* MCHC-29.8* RDW-24.1* RDWSD-62.9*
___ 12:34PM   NEUTS-53.8 ___ MONOS-9.6 EOS-3.5 
BASOS-0.5 IM ___ AbsNeut-2.29 AbsLymp-1.36 AbsMono-0.41 
AbsEos-0.15 AbsBaso-0.02
___ 12:34PM   PLT COUNT-251
___ 12:34PM   GLUCOSE-99 UREA N-6 CREAT-1.0 SODIUM-135 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-23 ANION GAP-15
 
Brief Hospital Course:
The patient presented with persistent right breast pain on ___. 
An ultrasound showed a superficial hypoechoic fluid collection 
tracking along the chest wall near the sternum on the right 
side. She was taken for ultrasound-guided drainage of the 
parasternal collection on ___. A 22-gauge needle was placed 
into the collection and ___ cc of fluid was obtained. The fluid 
was sent to bacteriology for culture and 
sensitivity. The needle was removed and hemostasis was achieved. 
Gram stain was negative for PMNs or bacteria.

The patient did well post-procedure, and her pain improved. Upon 
discharge on ___, she was tolerating a regular diet, her pain 
was well-controlled on oral dilaudid, she was voiding and 
ambulating without difficulty. 

She has plans to have a port placed on ___ and start her 
planned chemotherapy thereafter. 

 
Medications on Admission:
1. Omeprazole 40 mg PO DAILY 
2. HYDROmorphone (Dilaudid) 2 mg PO Q3H:PRN Pain - Severe 
3. LORazepam 1 mg PO Q6H:PRN anxiety 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Moderate  
2.  Gabapentin 300 mg PO TID  
3.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Moderate  
4.  LORazepam 1 mg PO Q6H:PRN anxiety  
5.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right breast hematoma
Breast pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with a hematoma in your right 
breast. It was aspirated by interventional radiology, and now 
you are ready for discharge. 

Please continue all of your home medications that you were 
taking prior to your admission. You can shower today. Please 
continue to move your shoulder and right arm as tolerated. 
Please see your providers as soon as possible to continue 
treatment for breast cancer.
 
Followup Instructions:
___